US08378104B2
Step A: 3-bromo-2-phenylthieno[2,3-c]pyridine
A mixture of 2,3-dibromothieno[2,3-c]pyridine (500 mg, 1.71 mmol), phenylboronic acid (197 mg, 1.61 mmol), Pd(PPh3)4 (187 mg, 0.16 mmol), 2.0 M aqueous sodium carbonate (4 mL, 8 mmol) in DME (25 mL) was evacuated and refilled with nitrogen 3× and then heated in a microwave at 100° C. for 30 min. The reaction was diluted with EtOAc and washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was dried over anhydrous sodium sulfate and purified by ISCO chromatography (0 to 25% EtOAc:heptane) to afford 162 mg (35%) of the title compound as a white solid. 1H NMR (acetone-d6): δ 9.24 (s, 1 H), 8.65 (d, J=5.5 Hz, 1 H), 7.82 (dd, J=7.9, 1.5 Hz, 2 H), 7.76 (d, J=5.5 Hz, 1 H), 7.55-7.61 (m, 3 H); MS (ESI): 290.36, 292.34 [M+H]+; HPLC tR=1.25 min (HPLC: Analytical—2 min).

reactant | 2,3-dibromothieno[2,3-c]pyridine | 1.71 mmol, 500 mg | BrC1=C(C=2C(=CN=CC2)S1)Br | C7H3Br2NS
reactant | phenylboronic acid | 1.61 mmol, 197 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 8 mmol, 2.0 M, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 25 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.16 mmol, 187 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-bromo-2-phenylthieno[2,3-c]pyridine | 162 mg, 35% | BrC1=C(SC2=CN=CC=C21)C2=CC=CC=C2 | C13H8BrNS
